US07365197B2
To a suspension of 0.05 g (0.133 mmol) of 4-chloro-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazoline in 2 mL of isopropanol is added 0.031 g (0.161 mmol) of 2,4-dichloro-5-methoxyaniline and 0.016 g (0.133 mmol) of pyridine hydrochloride. The mixture is brought to reflux for 2 hours, then allowed to cool to room temperature. A yellow precipitate formed, which is filtered and washed with cold isopropanol. Drying in vacuo provided 0.030 g of (2,4-dichloro-5-methoxyphenyl)-[7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazolin-4-yl]-amine dihydrochloride as a yellow solid, mp 258-260° C.

reactant | 4-chloro-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazoline | 0.133 mmol, 0.05 g | ClC1=NC=NC2=CC3=C(C=C12)C=C(C(=C3)OCCN3CCOCC3)OC | C19H20ClN3O3
reactant | 2,4-dichloro-5-methoxyaniline | 0.161 mmol, 0.031 g | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
reactant | pyridine hydrochloride | 0.133 mmol, 0.016 g | Cl.N1=CC=CC=C1
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | (2,4-dichloro-5-methoxyphenyl)-[7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazolin-4-yl]-amine dihydrochloride | 0.030 g | Cl.Cl.ClC1=C(C=C(C(=C1)Cl)OC)NC1=NC=NC2=CC3=C(C=C12)C=C(C(=C3)OCCN3CCOCC3)OC | InChI=1S/C26H26Cl2N4O4.2ClH/c1-33-23-14-22(19(27)13-20(23)28)31-26-18-9-16-11-24(34-2)25(12-17(16)10-21(18)29-15-30-26)36-8-5-32-3-6-35-7-4-32;;/h9-15H,3-8H2,1-2H3,(H,29,30,31);2*1H
